US04038414
5.1 g (0.019 mol) of 2-methoxy-4-(2-methoxycarbonylaminovinyl)-acetoxybenzene are suspended in 75 ml of absolute methanol, a solution of 1.04 g (0.019 mol) of sodium methoxide in 15 ml of absolute methanol is added and the mixture is subsequently warmed to 50° C. for 15 minutes. It is then evaporated to dryness in vacuo. The resulting crude sodium salt of 2-methoxy-4-(2-methoxycarbonylaminovinyl)-phenol is heated to the boil, with 20 ml of epichlorohydrin, for 24 hours under a reflux condenser and whilst stirring. Thereafter, the excess epichlorohydrin is removed by distillation under reduced pressure. The residue is partitioned between water and methylene chloride and the organic phase is separated off, dried over sodium sulphate and evaporated. After crystallisation from ether of the crude product thus obtained, 1-[2-methoxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane of melting point 122°-123° C. is obtained.

reactant | 2-methoxy-4-(2-methoxycarbonylaminovinyl)-acetoxybenzene | 0.019 mol, 5.1 g | COCC(=O)OC1=CC=C(C=C1)C=CNC(=O)OC | C13H15NO5
reactant | sodium methoxide | 0.019 mol, 1.04 g | C[O-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 1-[2-methoxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane | COC1=C(OCC2CO2)C=CC(=C1)C=CNC(=O)OC | C14H17NO5
